US09227985B2
Step 7. 3-(7-Bromo-2-oxo-1,2,4,5-tetrahydroimidazo[1,5,4-de][1,4]benzoxazin-4-yl)pyridine-2-carbonitrile
A solution of 3-(2-oxo-1,2,4,5-tetrahydroimidazo[1,5,4-de][1,4]benzoxazin-4-yl)pyridine-2-carbonitrile (709 mg, 2.548 mmol) in N,N-dimethylformamide (25.0 mL) was treated with N-bromosuccinimide (630 mg, 3.54 mmol) and stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate and washed with water and brine, dried over magnesium sulfate, filtered, and concentrated to give the crude product. Purification by preparative LCMS (XBridge C18 column, eluting with a gradient of acetonitrile/water containing 0.1% ammonium hydroxide, at flow rate of 60 mL/min) gave the desired product (0.44 g, 48%) as a racemic mixture. LCMS calculated for C15H10BrN4O2 (M+H)+: m/z=357.0, 359.0. found: 356.8, 358.8.

reactant | 3-(2-oxo-1,2,4,5-tetrahydroimidazo[1,5,4-de][1,4]benzoxazin-4-yl)pyridine-2-carbonitrile | 2.548 mmol, 709 mg | O=C1NC2=CC=CC3=C2N1C(CO3)C=3C(=NC=CC3)C#N | C15H10N4O2
reactant | N-bromosuccinimide | 3.54 mmol, 630 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | N,N-dimethylformamide | 25.0 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(7-Bromo-2-oxo-1,2,4,5-tetrahydroimidazo[1,5,4-de][1,4]benzoxazin-4-yl)pyridine-2-carbonitrile | 0.44 g, 48% | BrC1=CC=C2C=3N(C(COC31)C=3C(=NC=CC3)C#N)C(N2)=O | C15H9BrN4O2
